US08859580B2
(2R,6S)-10-Fluoro-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine
A solution of nitrosonium tetrafluoroborate (0.25 g) in dioxane (2 mL) is added to a solution of (2R,6S)-10-amino-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocine-3-carboxylic acid tert-butyl ester (0.10 g) in dioxane (2 mL). The solution is heated to 50° C. and stirred at this temperature overnight. The reaction solution is diluted with methanol and then concentrated under reduced pressure. The residue is purified by HPLC on reversed phase (MeCN/H2O/F3CCO2H) to yield the title product.

reactant | nitrosonium tetrafluoroborate | 0.25 g | F[B-](F)(F)F.N#[O+]
reactant | (2R,6S)-10-amino-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocine-3-carboxylic acid tert-butyl ester | 0.10 g | C(C)(C)(C)OC(=O)N1[C@@H]2CC3=C([C@](CC1)(C2(C)C)C)C=CC=C3N | C20H30N2O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | (2R,6S)-10-Fluoro-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine | FC1=CC=CC2=C1C[C@H]1NCC[C@@]2(C1(C)C)C | C15H20FN
